US08629137B2
3-(1-{5-[hydroxy-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-yl)-methyl]-pyridazin-3-yl}-piperidin-4-yl)-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
A mixture of 0.25 g (0.40 mmol) 3-{1-[6-chloro-5-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyridazin-3-yl]-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one, 0.10 mL (0.71 mmol) TEA and 50 mg palladium on charcoal (Pd/C 10%) in MeOH was hydrogenated for 3 h at 50° C. in a hydrogen atmosphere of 50 psi. After filtration of the reaction mixture the filtrate was evaporated down to approx. 3 mL and mixed with a little ice water. The precipitate formed was suction filtered and dried. The residue contained the desired product in the mixture and was used in the next step without further purification.

reactant | 3-{1-[6-chloro-5-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyridazin-3-yl]-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | 0.40 mmol, 0.25 g | ClC1=C(C=C(N=N1)N1CCC(CC1)N1C(NC2=C(CC1)C=C(C=C2)OC)=O)C(=O)C2=CC1=C(NC(O1)=O)C(=C2)C | C28H27ClN6O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
solvent | MeOH | CO | CH4O
product | 3-(1-{5-[hydroxy-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-yl)-methyl]-pyridazin-3-yl}-piperidin-4-yl)-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | OC(C=1C=C(N=NC1)N1CCC(CC1)N1C(NC2=C(CC1)C=C(C=C2)OC)=O)C2=CC1=C(NC(O1)=O)C(=C2)C | C28H30N6O5
